### ISSUE TITLE
Erdős Problem #33: sup/inf confusion?

### ISSUE THREAD

**Issue by plby** [google-deepmind/formal-conjectures#1543]
https://github.com/google-deepmind/formal-conjectures/blob/234baea1a3a51f6f16689b06e9f77a1af8fcd552/FormalConjectures/ErdosProblems/33.lean#L64-L67

```
theorem erdos_33.variants.vanDoorn :
    ↑(2 * (φ ^ ((5 : ℝ) / 2))) ∈ lowerBounds { c : EReal | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
      Filter.atTop.limsup (fun N => (A.interIcc 1 N).ncard / (√N)) = c} := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state;
  -- Proof starts here:
  rw [ mem_lowerBounds ] ; norm_num;
  use Set.univ;
  aesop;
  · exact fun k => ⟨ 0, k, by norm_num ⟩;
  · norm_num [ Set.ncard_eq_toFinset_card' ];
    rw [ Filter.limsup_eq ];
    rw [ show { a : ℝ | ∀ᶠ n : ℕ in Filter.atTop, Real.sqrt n ≤ a } = ∅ from _ ] <;> norm_num;
    · exact EReal.coe_pos.mpr ( by positivity );
    · exact Set.eq_empty_of_forall_notMem fun x hx => by rcases hx with ⟨ N, hN ⟩ ; exact absurd ( hN ( N + ⌊x ^ 2⌋₊ + 1 ) ( by linarith ) ) ( by push_cast; nlinarith [ Nat.lt_floor_add_one ( x ^ 2 ), Real.sqrt_nonneg ( N + ⌊x ^ 2⌋₊ + 1 : ℝ ), Real.mul_self_sqrt ( by positivity : ( 0 : ℝ ) ≤ N + ⌊x ^ 2⌋₊ + 1 ) ] ) ;
```

I think the issue is some kind of confusion about lower and upper bounds and the meaning thereof.  I briefly understood it at one point, but honestly I got super confused myself.

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else
